US05969146
8.4. (R)-3-(6-Formylbenzofuran-3-yl)-5-(methoxymethyl)oxazolidin-2-one
1 ml (14.4 mmol) of dimethyl sulphoxide in 20 ml of dichloromethane is added to a solution, cooled to -70° C., of 0.75 ml (8.6 mmol) of oxalyl chloride in 20 ml of dichloromethane. The mixture is stirred for 15 min and a solution of 2.0 g (7.2 mmol) of (R)-3-[6-(hydroxymethyl)benzofuran-3-yl]-5-(methoxymethyl)oxazolidin-2-one in 35 ml of dichloromethane is slowly added. The mixture is stirred for three hours at -70° C. and 5.0 ml (36 mmol) of triethylamine are added. After returning to room temperature, the mixture is poured into 50 ml of water, the product is extracted with dichloromethane and the organic phase is dried over sodium sulphate and concentrated under reduced pressure. The product is purified by chromatography on silica gel and an oil is recovered which is crystallized from ethyl ether.

reactant | dimethyl sulphoxide | 14.4 mmol, 1 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 8.6 mmol, 0.75 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (R)-3-[6-(hydroxymethyl)benzofuran-3-yl]-5-(methoxymethyl)oxazolidin-2-one | 7.2 mmol, 2.0 g | OCC1=CC2=C(C(=CO2)N2C(O[C@H](C2)COC)=O)C=C1 | C14H15NO5
reactant | triethylamine | 36 mmol, 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | (R)-3-(6-Formylbenzofuran-3-yl)-5-(methoxymethyl)oxazolidin-2-one | C(=O)C1=CC2=C(C(=CO2)N2C(O[C@H](C2)COC)=O)C=C1 | C14H13NO5
